US08609876B2
Preparation of 9,10,12-tributyroxy octadecanoic acid methyl ester rich fatty acid methyl esters mixture
The title compound (190 g) was prepared by reacting 9,10,12-Trihydroxy octadecanoic acid methyl ester rich fatty, acid methyl esters mixture (97 g) with butyric anhydride (260 g) according experiment 2 having an A.V. of 0.1, H.V. of 2.4 and I.V. of 2.0. The product was evaluated for viscosity, viscosity index (V.I.), pour point, flash point and copper strip corrosion and the data is provided in the following table.

reactant | 9,10,12-Trihydroxy octadecanoic acid methyl ester | COC(CCCCCCCC(C(CC(CCCCCC)O)O)O)=O | C19H38O5
reactant | butyric anhydride | 260 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
catalyst | copper | [Cu] | Cu
product | 9,10,12-tributyroxy octadecanoic acid methyl ester | 190 g | COC(CCCCCCCC(C(CC(CCCCCC)OC(CCC)=O)OC(CCC)=O)OC(CCC)=O)=O | C31H56O8
